US06525067B1
1-{1-[3,6-Dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-4-yl]-propyl}-3-methyl-urea
A mixture of 1-[3,6-dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-4-yl]-propylamine (26.5 mg), methyl isocyanate (0.05 ml), in dichloroethane (1 ml) was heated at reflux overnight. The mixture was quenched with water and extracted with chloroform. The organic layer was separated, dried and concentrated to give 27.1 mg of white solid. The solid was purified by preparative thin layer chromatography using 5% methanol in chloroform as solvent to give the title compound as a white solid.

reactant | 1-[3,6-dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-4-yl]-propylamine | 26.5 mg | CC=1C(=NC(=CC1C(CC)N)C)OC1=C(C=C(C=C1C)C)C | C19H26N2O
reactant | methyl isocyanate | 0.05 ml | CN=C=O | C2H3NO
solvent | dichloroethane | 1 ml | ClC(C)Cl | C2H4Cl2
product | 1-{1-[3,6-Dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-4-yl]-propyl}-3-methyl-urea | 27.1 mg | CC=1C(=NC(=CC1C(CC)NC(=O)NC)C)OC1=C(C=C(C=C1C)C)C | C21H29N3O2
